US05104888
6-Methoxymethoxy-5,7,8-trimethyl-2-octylchroman-2-yl-methanol (Step A1')
10 ml of tetrahydrofuran containing 3.3 g of ethyl 6-methoxymethoxy-5,7,8-trimethyl-2-octylchroman-2-carboxylate (prepared as described in Preparation 12) were added dropwise to a mixture of 0.45 g of lithium aluminum hydride and 30 ml of tetrahydrofuran under a nitrogen stream, and whilst ice-cooling. The resulting mixture was stirred for 3 hours at room temperature. Ethyl acetate and 5% w/v aqueous hydrochloric acid were then added to the reaction mixture, whilst ice-cooling, and the organic layer was separated. Then the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, to give the title compound.

reactant | tetrahydrofuran | 10 ml, 3.3 g | O1CCCC1 | C4H8O
reactant | ethyl 6-methoxymethoxy-5,7,8-trimethyl-2-octylchroman-2-carboxylate | COCOC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)OCC)CCCCCCCC)C | C25H40O5
reactant | lithium aluminum hydride | 0.45 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Methoxymethoxy-5,7,8-trimethyl-2-octylchroman-2-yl-methanol | COCOC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)CO)C | C23H38O4
